US08735424B2
A solution of tert-butyl (3S,5R)-5-methylpiperidin-3-ylcarbamate (1.5 equiv.) and 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate (1.0 equiv.) and DIEA (2.0 equiv.) in i-PrOH was heated in a microwave at 150° C. (5×20 min). Upon cooling the material was purified directly by RP-HPLC. Upon lyophilization, the Boc group was deprotected by treatment with 25% TFA/CH2Cl2, concentrated, purified by RP-HPLC and lyophilized to yield (3S,5R)-5-methyl-1-(6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl)piperidin-3-amine (51%). LC/MS=402.0 (M+H), LC=2.16 min.

reactant | tert-butyl (3S,5R)-5-methylpiperidin-3-ylcarbamate | 1.5 equiv. | C[C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate | 1.0 equiv. | FC(S(=O)(=O)OC1=CC=NC2=CC=C(C=C12)C1=NC(=CC=C1)C=1SC=CN1)(F)F | C18H10F3N3O3S2
reactant | DIEA | 2.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | i-PrOH | CC(C)O | C3H8O
product | (3S,5R)-5-methyl-1-(6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl)piperidin-3-amine | 51% | C[C@@H]1C[C@@H](CN(C1)C1=CC=NC2=CC=C(C=C12)C1=NC(=CC=C1)C=1SC=CN1)N | C23H23N5S
